US07399775B2
2-Aminomethyl-4-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]morpholine
In methylene chloride (1.5 ml) was dissolved tert-butyl [4-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridine-2-yl]morpholine-2-yl]methylcarbamate (30 mg, 0.05 mmol). After addition of anisole (30 μl) and trifluoroacetic acid (150 μl) at room temperature, the mixture was stirred for 1 hour. The residue obtained by concentrating the reaction mixture under reduced pressure was purified by silica gel chromatography (3% methanol/chloroform→3% methanol, 3% tert-butylamine/chloroform), whereby the title compound (17 mg, 67%) was obtained as an oil.

reactant | tert-butyl [4-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridine-2-yl]morpholine-2-yl]methylcarbamate | 0.05 mmol, 30 mg | ClC=1C(=CC(=NC1)N1CC(OCC1)CNC(OC(C)(C)C)=O)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C28H29Cl2F2N3O5S
reactant | anisole | 30 μl | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 150 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 2-Aminomethyl-4-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]morpholine | NCC1CN(CCO1)C1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)Cl | C23H21Cl2F2N3O3S
